US06835731B2
4-{[(2-Nitrobenzenesulfonyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-N-pyridin-2-ylmethyl-benzamide
8-(2-nitrobenzenesulfonyl)amino-5,6,7,8-tetrahydroquinoline (402 mg, 1.20 mmol), 4-Chloromethyl-N-pyridin-2-ylmethyl-benzamide (314 mg, 1.20 mmol), and K2CO3 (498 mg, 3.60 mmol) were heated to reflux in CH3CN (4 mL) for 24 hours under N2. The reaction mixture was diluted with 200 mL ethyl acetate, and washed with sat. NaHCO3, then brine and dried over Na2SO4. Evaporation of the solvent and purification of the residue by flash chromatography on silica gel, using 50% ethyl acetate in CH2Cl2, afforded the title compound (603 mg, 90%) as white foam. 1H NMR (CDCl3) δ 1.56-1.61 (m, 1H), 1.74-2.05 (m, 2H), 2.32-2.36 (m, 1H), 2.58-2.64 (m, 2H), 3.95 (d, 1H, J=16.2 Hz), 4.74 (d, 2H, J=4.5 Hz), 4.85 (d, 1H, J=15.9 Hz), 5.30 (dd, 1H, J=11.1, 17.4 Hz), 7.05 (dd, 1H, J=4.5, 7.5 Hz), 7.22-7.29 (m, 2H), 7.34 (dd, 2H, J=7.5, 7.8 Hz), 7.48-7.73 (m, 8H), 8.12-8.15 (m, 1H), 8.20-8.24 (m, 1H), 8.45-8.59 (m, 1H); ES-MS m/z 558.2 (M+H).

reactant | 8-(2-nitrobenzenesulfonyl)amino-5,6,7,8-tetrahydroquinoline | 1.20 mmol, 402 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC1CCCC=2C=CC=NC12 | C15H15N3O4S
reactant | 4-Chloromethyl-N-pyridin-2-ylmethyl-benzamide | 1.20 mmol, 314 mg | ClCC1=CC=C(C(=O)NCC2=NC=CC=C2)C=C1 | C14H13ClN2O
reactant | K2CO3 | 3.60 mmol, 498 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 4 mL | CC#N | C2H3N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-{[(2-Nitrobenzenesulfonyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-N-pyridin-2-ylmethyl-benzamide | 603 mg, 90% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(C1CCCC=2C=CC=NC12)CC1=CC=C(C(=O)NCC2=NC=CC=C2)C=C1 | C29H27N5O5S
